US07977477B2
Trifluoroacetic anhydride (40 μl, 0.28 mmol) was added to a solution of 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine (50 mg, 0.25 mmol) in pyridine (5 ml) and the reaction mixture stirred at ambient temperature for 24 h. The mixture was reduced in vacuo and the residue purified by flash column chromatography [SiO2, EtOAc-petrol (1:2)] to afford N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,2,2-trifluoro-acetamide as a cream solid (23 mg, 32%). (LC/MS: Rt 3.67, [M+H]+ 295.63).

reactant | Trifluoroacetic anhydride | 0.28 mmol, 40 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-ylamine | 0.25 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)C2=NNC=C2N | C10H9N5
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2,2,2-trifluoro-acetamide | 23 mg, 32% | N1C(=NC2=C1C=CC=C2)C2=NNC=C2NC(C(F)(F)F)=O | C12H8F3N5O
